US05990102
Methyl (4-(4-methoxybenzylthio)-2-oxoazetidin-1-yl)acetate
Treatment of 4-(4-methoxybenzylthio)-azetidin-2-one (7 g) with methyl bromoacetate (5.3 g) under the conditions described for Example 29a gave the title compound as a colourless solid, m.p. 45-46° C., (5.9 g, 64%)

reactant | 4-(4-methoxybenzylthio)-azetidin-2-one | 7 g | COC1=CC=C(CSC2CC(N2)=O)C=C1 | C11H13NO2S
reactant | methyl bromoacetate | 5.3 g | BrCC(=O)OC | C3H5BrO2
product | Methyl (4-(4-methoxybenzylthio)-2-oxoazetidin-1-yl)acetate | COC1=CC=C(CSC2CC(N2CC(=O)OC)=O)C=C1 | C14H17NO4S
